US07790726B2
Magnesium turnings (2.60 g) in a flask were stirred vigorously under vacuum at room temperature for 12 h and then the flask was filled with nitrogen gas. THF (20 mL) was added followed by the addition of one crystal of 12. The mixture was cooled to 0° C. and a solution of 5-bromo-2-chloroanisole (6.64 g) in THF (100 mL) was added in a period of 10 min. The mixture was warmed up to room temperature and stirred at room temperature for 15 min before it was heated to 45° C. for 2 h to provide a solution of the Grignard solution. To 24 mL of the Grignard solution obtained from above (at −40° C.) was added N-Boc-piperidone (1.0 g) in one portion. The resultant mixture was warmed up to room temperature, stirred for 1 h and quenched by the addition of sat. aqueous NH4Cl solution (20 mL). The organic layer was separated and the aqueous layer was extracted by EtOAc (3×20 mL). The combined organic layers were dried (Na2SO4), filtered and evaporated in vacuo. The crude residue was purified by flash chromatography to provide 4-(4-Chloro-3-methoxy-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester as a colorless oil (502 mg).

reactant | Magnesium | 2.60 g | [Mg] | Mg
reactant | 5-bromo-2-chloroanisole | 6.64 g | BrC=1C=CC(=C(C1)OC)Cl | C7H6BrClO
reactant | N-Boc-piperidone | 1.0 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(4-Chloro-3-methoxy-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 502 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC(=C(C=C1)Cl)OC | C17H24ClNO4
